US09108957B2
To a solution of (+)-3-acetoxy-2-(4-bromophenyl)propyl 4-methylbenzene-sulfonate (8.00 g, 18.7 mmol) in N,N-dimethylformamide (94.0 ml) was added (R)-(+)-1-phenylethylamine(11.3 g, 93.2 mmol) at room temperature. The mixture was stirred at 120° C. for 7 hours and concentrated in vacuo. The residue was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant: hexane/ethyl acetate=7/3) to afford diastereopure 3-((R)-1-phenylethylamino)-2-(4-bromophenyl)propyl acetate as pale yellow oil (2.85 g, 40%).

reactant | (+)-3-acetoxy-2-(4-bromophenyl)propyl 4-methylbenzene-sulfonate | 18.7 mmol, 8.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(COC(C)=O)C1=CC=C(C=C1)Br | C18H19BrO5S
reactant | (R)-(+)-1-phenylethylamine | 93.2 mmol, 11.3 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | N,N-dimethylformamide | 94.0 ml | CN(C=O)C | C3H7NO
product | 3-((R)-1-phenylethylamino)-2-(4-bromophenyl)propyl acetate | 2.85 g, 40% | C(C)(=O)OCC(CN[C@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)Br | C19H22BrNO2
